US08912188B2
To a solution of methyl 3-(benzyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylate (70 mg, 0.17 mmol) in methanol (20 ml) was added sodium hydroxide (33 mg, 0.82 mmol) in water (5 ml). The resulting solution was stirred overnight at room temperature and then concentrated under vacuum to give a residue, which was dissolved in water (20 ml), and adjusted to pH 4 with HCl (3N). The solids were collected by filtration to afford 3-(benzyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylic acid as a yellow solid (64.1 mg, 89%).

reactant | methyl 3-(benzyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylate | 0.17 mmol, 70 mg | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C=NNC2=CC1)C | C25H21N5O2
reactant | sodium hydroxide | 0.82 mmol, 33 mg | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-(benzyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylic acid | 64.1 mg, 89% | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=C2C=NNC2=CC1)C | C24H19N5O2
